US06756378B2
To a stirred solution of methyl 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetate (1.23 g, 3.70 mmol) in THF (30 ml) was added 0.25 N NaOH (30 ml). After stirring at room temperature for 14 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of 1 N HCl and dried over 60° C. for 2 days under a reduced pressure to give 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (1.22 g, 100%) as colorless powder. 1H-NMR (DMSO-d6) 8.26 (s, 3H), 3.40 (s, 2H), 6.95 (t, J=7.3 Hz, 1H), 7.11 (d, J=7.6 Hz, 2H), 7.16 (d, J=7.3 Hz, 1H), 7.32 (s, 1H), 7.76 (d, J=8.0 Hz, 1H), 7.94 (dd, J=9.3, 1.0 Hz, 1H), 8.72 (s, 2H); MS (ESI) m/z 319 (M++1), 321 (M++3), 341 (M++Na).

reactant | methyl 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetate | 3.70 mmol, 1.23 g | ClC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC | C17H17ClN2O3
reactant | NaOH | 0.25 N, 30 ml | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.22 g, 100% | ClC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C16H15ClN2O3
